US05223498
A mixture of 5-isobutyl-2-morpholinoaniline hydrochloride (4.1 g), N,N-dimethylcyanamide (1.77 g) and m-cresol (15 ml) was heated at 90°-95° C. for 6 hours to yield a residue which was extracted with hot hexane, decolourised with charcoal and purified by chromatography on an alumina column eluted with a 2:98 mixture of methanol and dichloromethane. The resulting product was crystallised from a 1:3 mixture of ethylacetate and hexane. The initial precipitate was removed by filtration and the filtrate evaporated to dryness to give a residue which was recrystallised from a 1:3 mixture of ethylacetate and hexane to give 1,1-dimethyl-2-(5-isobutyl-2-morpholinophenyl)guanidine.

reactant | 5-isobutyl-2-morpholinoaniline hydrochloride | 4.1 g | Cl.C(C(C)C)C=1C=CC(=C(N)C1)N1CCOCC1
reactant | N,N-dimethylcyanamide | 1.77 g | CN(C#N)C | C3H6N2
reactant | m-cresol | 15 ml | C1=C(C=CC=C1O)C | C7H8O
product | 1,1-dimethyl-2-(5-isobutyl-2-morpholinophenyl)guanidine | CN(C(=NC1=C(C=CC(=C1)CC(C)C)N1CCOCC1)N)C | C17H28N4O
